US07141671B2
Biphenyl-2-ylcarbamic Acid 1-[2-(4-[1,3]dioxolan-2-ylphenylcarbamoyl)-ethyl]-4-methylpiperidin-4-yl Ester
A mixture of biphenyl-2-ylcarbamic acid 4-methylpiperidin-4-yl ester (2.73 g, 8.79 mmol) and N-(4-[1,3]dioxolan-2-yl-phenyl)acrylamide (2.05 g, 8.80 mmol) were heated in 100 mL of 1:1 methanol/dichloromethane at 50° C. under nitrogen for 1 h. The solution was then diluted with ethyl acetate and the organic layer was washed with water, brine, dried (MgSO4) and concentrated under reduced pressure to give the title compound. MS m/z calcd for C31H35N3O5 (M+H)+ 530.6; found 530.4.

reactant | biphenyl-2-ylcarbamic acid 4-methylpiperidin-4-yl ester | 8.79 mmol, 2.73 g | CC1(CCNCC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C19H22N2O2
reactant | N-(4-[1,3]dioxolan-2-yl-phenyl)acrylamide | 8.80 mmol, 2.05 g | O1C(OCC1)C1=CC=C(C=C1)NC(C=C)=O | C12H13NO3
solvent | methanol dichloromethane | 100 mL | CO.ClCCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Biphenyl-2-ylcarbamic Acid 1-[2-(4-[1,3]dioxolan-2-ylphenylcarbamoyl)-ethyl]-4-methylpiperidin-4-yl Ester | O1C(OCC1)C1=CC=C(C=C1)NC(=O)CCN1CCC(CC1)(C)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C31H35N3O5
